US04962203
Preparation of methyl 2-(3-hydroxyphenoxy)propanoate
A mixture of resorcinol (11.0 g), methyl 2-bromopropanoate (20 g), potassium carbonate (27.6 g) and methyl ethyl ketone (120 mL) was heated under reflux for 5 hours. The reaction mixture was filtered, evaporated and the residue was separated by chromatography. Elution with 1:3 ethyl acetate/hexane afforded the desired product.

reactant | resorcinol | 11.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | methyl 2-bromopropanoate | 20 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 120 mL | C(C)C(=O)C | C4H8O
product | methyl 2-(3-hydroxyphenoxy)propanoate | OC=1C=C(OC(C(=O)OC)C)C=CC1 | C10H12O4
